US07456218B2
3-[4-({4′-[2-(benzyloxy)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoic acid
To a solution of methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (0.50 g, 1.28 mmol), 2-(benzyloxy)ethanol (0.20 mL, 1.41 mmol) and tributylphosphine (0.48 mL, 1.92 mmol) in tetrahydrofuran (10 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.48 g, 1.92 mmol) at 0° C. with stirring. The reaction mixture was stirred at room temperature for 18 hrs., and an equivalent amount of the aforementioned reagents (2-(benzyloxy)ethanol, tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine) were added at the same temperature and the mixture was further stirred for 18 hrs. Diethyl ether was added to the reaction mixture and insoluble material was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give a colorless oil. Then, to a mixture of the oil, methanol (4 mL) and tetrahydrofuran (8 mL) was added 1 N aqueous sodium hydroxide solution (2.6 mL) at room temperature with stirring, and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was neutralized with 1 N hydrochloric acid, diluted with ethyl acetate, washed with saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-hexane/ethyl acetate=1/2) to give the title compound (0.26 g, yield 39%) as colorless crystals.

reactant | methyl 3-{4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.28 mmol, 0.50 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C25H26O4
reactant | 2-(benzyloxy)ethanol | 1.41 mmol, 0.20 mL | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | tributylphosphine | 1.92 mmol, 0.48 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.92 mmol, 0.48 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | sodium hydroxide | 1 N, 2.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-[4-({4′-[2-(benzyloxy)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)phenyl]propanoic acid | 0.26 g, yield 39% | C(C1=CC=CC=C1)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O)C | C33H34O5
